US06090804
2) 1-[5-(5-Aminomethyl-1,2,4-oxadiazol-3-yl)-2-thenyl]hexahydro-1H-azepine dihydrochloride 1/2 hydrate
1.1 g of 1-[5-(5-t-butoxycarbonylaminomethyl-1,2,4-oxadiazol-3-yl)-2-thenyl]hexahydro-1H-azepine was dissolved in 30 ml of 4 N hydrochloric acid-1,4-dioxane solution, and the solution was stirred at room temperature for 30 minutes. The reaction solution was concentrated under a reduced pressure, and the resulting residue was recrystallized from ethyl acetate to give 966 mg of the title compound.

reactant | 1-[5-(5-t-butoxycarbonylaminomethyl-1,2,4-oxadiazol-3-yl)-2-thenyl]hexahydro-1H-azepine | 1.1 g | C(C)(C)(C)OC(=O)NCC1=NC(=NO1)C1=CC=C(S1)CN1CCCCCC1 | C19H28N4O3S
reactant | hydrochloric acid 1,4-dioxane | 4 N, 30 ml | Cl.O1CCOCC1
product | 1-[5-(5-Aminomethyl-1,2,4-oxadiazol-3-yl)-2-thenyl]hexahydro-1H-azepine dihydrochloride | 966 mg | Cl.Cl.NCC1=NC(=NO1)C1=CC=C(S1)CN1CCCCCC1 | InChI=1S/C14H20N4OS.2ClH/c15-9-13-16-14(17-19-13)12-6-5-11(20-12)10-18-7-3-1-2-4-8-18;;/h5-6H,1-4,7-10,15H2;2*1H
